US07622583B2
A freshly oven dried 500 mL round-bottom flask was charged with 2-chloro-5-nitropyridine (5.0 g, 31.6 mmol) and anhydrous iPrOH (50 mL). The resultant solution was cooled in an ice bath and iPrONa (50 mmol) in iPrOH (250 mL) added slowly, followed by stirring at the same temperature for 30 min and then at room temperature for 14 h. The reaction was quenched with H2O (5 mL), filtered through celite, and concentrated under reduced pressure. The residue was diluted with EtOAc and washed with brine, dried over MgSO4, and concentrated under reduced pressure. The residue was purified through automated normal-phase chromatography to afford 2-isopropoxyl-5-nitropyridine (4.6 g, 79%) which was used directly for the next step: 1H NMR (400 MHz, CDCl3) δ 9.02 (d, 1 H), 8.30 (dt, 1 H), 6.75 (d, 1 H), 5.40 (sep, 1 H), 1.38 (d, 6H); MS (ES) (M++H) expect 183.1, found 183.1.

reactant | 2-chloro-5-nitropyridine | 31.6 mmol, 5.0 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | iPrONa | 50 mmol | C(C)(C)O[Na]
solvent | iPrOH | 250 mL | CC(C)O | C3H8O
solvent | iPrOH | 50 mL | CC(C)O | C3H8O
product | 2-isopropoxyl-5-nitropyridine | 4.6 g, 79% | O(C(C)C)C1=NC=C(C=C1)[N+](=O)[O-] | C8H10N2O3
